US09315495B2
The compound was synthesized as in Example 3.1 using 4-bromobenzaldehyde (250 mg, 1.35 mmol) in place of 5-bromo-2-formylfuran and pentylboronic acid (259 mg, 2.23 mmol) in place of hexylboronic acid to give 4-pentylbenzaldehyde (161 mg, 68%). Used without further characterization.

reactant | 4-bromobenzaldehyde | 1.35 mmol, 250 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | pentylboronic acid | 2.23 mmol, 259 mg | C(CCCC)B(O)O | C5H13BO2
product | 4-pentylbenzaldehyde | 161 mg, 68% | C(CCCC)C1=CC=C(C=O)C=C1 | C12H16O
